US08008305B2
N-(2-Biphenyl-4-yl-ethyl)-2-(3-morpholin-4-yl-propylamino)-nicotinamide
The title compound was prepared in analogy to example 1, but starting from 2-chloro-nicotinic acid methyl ester and subsequently using 3-morpholin-4-yl-propylamine in the first step and 2-biphenyl-4-yl-ethylamine in the third step.

reactant | 2-chloro-nicotinic acid methyl ester | COC(C1=C(N=CC=C1)Cl)=O | C7H6ClNO2
reactant | 3-morpholin-4-yl-propylamine | N1(CCOCC1)CCCN | C7H16N2O
reactant | 2-biphenyl-4-yl-ethylamine | C1(=CC=C(C=C1)CCN)C1=CC=CC=C1 | C14H15N
product | N-(2-Biphenyl-4-yl-ethyl)-2-(3-morpholin-4-yl-propylamino)-nicotinamide | C1(=CC=C(C=C1)CCNC(C1=C(N=CC=C1)NCCCN1CCOCC1)=O)C1=CC=CC=C1 | C27H32N4O2
